US07396844B1
Synthesis of N-[2-(3-cyanophenoxy)ethyl]-1-(dimethylaminocarbonyl)piperidine-4-carboxyamide
430 mg (1.58 mmol) of N-[2-(3-cyanophenoxy)ethyl]-piperidine-4-carboxyamide (JP2 19-1) was dissolved in 1.6 ml of dimethylformamide, and 0.3 ml (2.06 mmol) of triethylamine and 0.16 ml (1.74 mmol) of dimethyl carbamoyl chloride were added thereto at 0° C. and stirred at room temperature for 2 hours. It was treated in an ordinary manner with ethyl acetate as the extractant to obtain the title compound.

reactant | N-[2-(3-cyanophenoxy)ethyl]-piperidine-4-carboxyamide | 1.58 mmol, 430 mg | C(#N)C=1C=C(OCCNC(=O)CC2CCNCC2)C=CC1 | C16H21N3O2
reactant | triethylamine | 2.06 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | dimethyl carbamoyl chloride | 1.74 mmol, 0.16 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1.6 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-cyanophenoxy)ethyl]-1-(dimethylaminocarbonyl)piperidine-4-carboxyamide | C(#N)C=1C=C(OCCNC(=O)CC2CCN(CC2)C(=O)N(C)C)C=CC1 | C19H26N4O3
